US07569687B2
Preparation of 2β-(4-morpholinyl)-16β-(1-pyrrolidinyl)-5α-androstan-3α,17β-diol, Compound VII
A suspension of 2α,3α-epoxy-16β-(1-pyrrolidinyl)-5α-androstan-17β-ol (1.80 Kg, 5.006 mol) in a mixture of morpholine (11.44 L) and purified water (1.144 L) was prepared at 20-24° C. and under N2 atmosphere. To the suspension was added p-toluenesulphonic acid (1.24 Kg, 6.508 mol) at 20-24° C. and under N2 atmosphere. The suspension was stirred in the darkness and heated to reflux (100-110° C.) for 40 h. After 40 h the reaction mixture was cooled to 20-24° C., and poured into a second vessel maintained at about 4° C. containing a 2% s solution of sodium carbonate (128 L), while stirred vigorously. The resulting suspension was stirred for 1 hour at about 4° C. The obtained solid was filtered off under vacuum, washed with cold purified water (100 L), and dried in a vacuum oven at about 40° C. for at least 48 hours, to give 2.07 Kg (4.49 mol) of a white solid. (89.7% molar yield and purity of 94.12% area by HPLC) m.p. 225° C.; [α]D20+82.00 (c=1.02 in CHCl3). The product could be used in the next stage without further purification.

reactant | 2α,3α-epoxy-16β-(1-pyrrolidinyl)-5α-androstan-17β-ol | 5.006 mol, 1.80 Kg | O1[C@H]2[C@@H]1C[C@@H]1CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]1(C2)C)O)N2CCCC2 | C23H37NO2
reactant | p-toluenesulphonic acid | 6.508 mol, 1.24 Kg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium carbonate | 128 L | C([O-])([O-])=O.[Na+].[Na+]
reactant | morpholine | 11.44 L | N1CCOCC1 | C4H9NO
product | 2β-(4-morpholinyl)-16β-(1-pyrrolidinyl)-5α-androstan-3α,17β-diol | 4.49 mol, 2.07 Kg | N1(CCOCC1)[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]2(C1)C)O)N1CCCC1)O | C27H46N2O3
